US06635655B1
6-[3-(Naphthalen-2-ylmethoxy)-phenyl]-hexanoic Acid
To a solution of 6-[3-(naphthalen-2-ylmethoxy)-phenyl]-hex-5-ynoic acid (0.54 g, 1.4 mmol) in methanol (15 mL) is added 10% Pd/C (0.10 g) and this mixture is placed on a Parr apparatus and pressurized to 43 psi with hydrogen. This reaction is allowed to shake overnight. The reaction is filtered and the solvent removed in vacuo. The residue is purified by flash chromatography (silica, 5% methanol in dichloromethane) to give the title compound. 1H NMR (300 MHz, CDCl3) δ 7.83-7.89 (m, 4H), 7.46-7.56 (m, 3H), 7.17-7.22 (m, 1H), 6.77-6.85 (m, 3H), 5.21 (s, 2H), 2.59 (t, 2H), 2.31 (t, 2H), 1.58-1.70 (m, 6H); MS (EI) 348 (M)+.

reactant | 6-[3-(naphthalen-2-ylmethoxy)-phenyl]-hex-5-ynoic acid | 1.4 mmol, 0.54 g | C1=C(C=CC2=CC=CC=C12)COC=1C=C(C=CC1)C#CCCCC(=O)O | C23H20O3
reactant | hydrogen | [H][H] | H2
solvent | methanol | 15 mL | CO | CH4O
catalyst | Pd/C | 0.10 g | [Pd] | Pd
product | 6-[3-(Naphthalen-2-ylmethoxy)-phenyl]-hexanoic Acid | C1=C(C=CC2=CC=CC=C12)COC=1C=C(C=CC1)CCCCCC(=O)O | C23H24O3
